data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2966,"C[S+:1](C)I.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9681,"CCOC(C)[NH:1]C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
